Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left flank pain
 
Major Surgical or Invasive Procedure:
___: left sided percutaneous nephrostomy tube
 
History of Present Illness:
___ yo otherwise healthy male who presented with left flank to ___ 
___, transferred to ___ for 6mm obstructing L ureteral 
stone with ___ and Leukocytosis.

She reports L sided flank pain for about the past week. 
Generally constant, ___. Has been taking 2 Aleves q12h for it. 
Pain does not radiate anywhere.  He was attributing it to a 
muscle strain from shoveling snow.  He also noticed increased 
frequency of urination, darker urine, subjective fevers, chills, 
and rigors.  He denies dysuria or hematuria. He also denies 
nausea, vomiting, HA, cough, CP, palpitations. Has never been 
diagnosed with a kidney stone before, but many years ago he had 
urinary symptoms and thinks he passed a dark stone, but he isn't 
sure.  His wife also notes that he has had increased urinary 
frequency for about ___ year, generally frequent bouts of small 
urination.

At ___, he had Cr of 1.8 (prior 0.9) and leukocytosis to 
19.  CT showed obstructing left ureteral stone.  There is no 
urology in house @ ___ so he was transferred to ___. 
Received 1L fluids + Tylenol at OSH.  CXR there was negative.

In the ED at ___, initial vitals were:  97.8, HR 62, BP 
142/68, RR 20, 99% RA.
Labs showed:  UA with pyuria/blood/nitrite, Cr 1.5, WBC 20.5.
Received: 1L IVF, Morphine, 1g CTX
Urology and ___ were consulted.  Recommendation was made for ___ 
to do a PCN tube.  This was done prior to arriving to the floor

On arrival to the floor, patient reports feeling much better.  
He has some dull pain in the area of the PCN tube, but his 
presenting pain is much better.  He has no new complaints though 
has several questions about the next steps.

Review of systems:  
(+) Per HPI.  He also notes several days of intermittently 
productive cough.
(-) 10 point ROS negative except for what is stated above in HPI 


 
Past Medical History:
Rectal Prolapse s/p open sigmoid resection with rectopexy
Hiatal Hernia
Negative stress test ___
Appendectomy in ___

 
Social History:
___
Family History:
 Positive for heart disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
================================
Vital Signs:  97.9, 178/69, HR 78, RR 18, 98% RA 
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended.
GU: PCN tube noted in left flank, dressed.
Ext: Warm, well perfused, no edema
Neuro: A+Ox3, no gross focal deficits

DISCHARGE PHYSICAL EXAM: 
================================
Vital Signs:  97.5 PO 138 / 75 61 18 98 RA 
Nephrostomy output: 1L
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended.
GU: PCN tube noted in left flank, dressed.
Ext: Warm, well perfused, no edema
Neuro: A+Ox3, no gross focal deficits, speech slightly difficult 
to interpret. 
 
 
Pertinent Results:
ADMISSION LABS: 
=========================
___ 07:30PM BLOOD WBC-20.5* RBC-4.50* Hgb-13.9 Hct-42.3 
MCV-94 MCH-30.9 MCHC-32.9 RDW-12.9 RDWSD-44.5 Plt ___
___ 07:30PM BLOOD Neuts-83* Bands-1 Lymphs-10* Monos-5 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-17.22* 
AbsLymp-2.05 AbsMono-1.03* AbsEos-0.00* AbsBaso-0.00*
___ 07:30PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 08:31PM BLOOD ___ PTT-29.7 ___
___ 07:30PM BLOOD Glucose-98 UreaN-29* Creat-1.5* Na-137 
K-4.1 Cl-100 HCO3-20* AnGap-21*
___ 07:30PM BLOOD Calcium-8.7 Phos-2.9 Mg-2.3
___ 07:34PM BLOOD Lactate-0.9

MICROBIOLOGY:
=========================
+ ___ - Blood and urine cultures pending
+ ___ - urine culture pending
 
IMAGING & STUDIES:
=========================  
+ CXR ___ (___): No acute cardiopulmonary disease seen.
+ CT Stone Study ___ (___): There is an obstructive 6 mm 
calculus within the distal left ureter with mild to moderate 
resultant hydroureter and moderate hydronephrosis. There is mild 
nonspecific perinephric periureteric fat stranding which may be 
due to associated inflammatory change though infectious etiology 
cannot excluded. Left nephrolithiasis.
Urinary bladder is contracted. There are multiple, some of which 
are
large, calculi within the dependent urinary bladder. 
Cholelithiasis. 2.4 cm cystic appearing nodule arising from the 
left adrenal gland.

DISCHARGE LABS: 
=========================
___ 07:45AM BLOOD WBC-10.7* RBC-4.18* Hgb-13.1* Hct-39.5* 
MCV-95 MCH-31.3 MCHC-33.2 RDW-13.1 RDWSD-45.5 Plt ___
___ 07:45AM BLOOD Glucose-93 UreaN-18 Creat-0.9 Na-137 
K-4.1 Cl-103 HCO3-21* AnGap-17
___ 07:45AM BLOOD Calcium-8.5 Phos-3.1 Mg-2.___ with no significant PMH presenting with fevers and left 
flank pain, found to have obstructing left ureteral stone, 
leukocytosis, and ___, now s/p left PCN placement.
 
# Infected Left Ureteral Stone: Presents with flank pain and 
fever, found to have obstructive left ureteral stone with pyuria 
and leukocytosis, consistent with infection.  Urology and ___ 
were consulted and recommended PCN tube placement, which 
resulted in significant improvement in symptoms and renal 
function. He tolerated drain well post placement. Fever and 
leukocytosis resolved with CTX (D1: ___, and he was 
transitioned to oral ciprofloxacin for ___7 (___). 
___ and ___ showed no growth of bacteria at time of 
discharge, but should be followed up. He will need to followup 
with ___ and Urology to determine timing of stone removal and 
drain removal. He was discharged with ___ for drain 
management/care. 

# ___: Presented with Cr 1.8, now 1.5, in setting of obstructing 
stone and left sided hydronephrosis. Renal function normalized 
s/p PCN placement
 
# Hematuria: Likely from stone. Recommend repeat UA as 
outpatient to ensure hematuria has cleared following Rx of above
# Frequent Urination:  He describes about one year of frequent 
small volume urination, consistent with possible BPH. Started 
tamsulosin. Will need to followup with urology. 
# Hypertension: Blood pressures 160s-170s during stay. Not on 
home meds. Started amlodipine while inpatient which was well 
tolerated. 
# Adrenal nodule: 2.4 cm cystic appearing nodule arising from 
the left adrenal gland seen on OSH CT. Will need outpatient f/u

TRANSITIONAL ISSUES:
===============================
# CODE:  Full code
# CONTACT:  Wife ___ ___
[ ] Repeat UA as outpatient to ensure hematuria has cleared 
following Rx of above
[ ] started amlodipine for mild hypertension, titrate as 
outpatient. 
[ ] 2.4 cm cystic appearing nodule arising from the left adrenal 
gland seen on ___. Recommend repeat CT in 3–6 months. 

[ ] Patient without established primary care. Set up with new 
PCP on discharge. He previously saw previously saw Dr. ___ 
___ in ___.
[ ] Patient complaints of frequent urination with history c/w 
BPH. Started on tamsulosin and arranged for outpatient urology 
followup. 
[ ] Continue oral ciprofloxacin for ___7 (___). 
[ ] ___ and ___ showed no growth of bacteria at time 
of discharge, but should be followed up. 
[ ] He will need to followup with ___ and Urology to determine 
timing of stone removal and drain removal. He was discharged 
with ___ for drain management/care. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl [___] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*10 Tablet Refills:*0 
3.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at night Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
====================
Obstructing renal caliculi
Pyelonephritis

SECONDARY: 
===================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure meeting you and taking care of you. You were 
transferred to ___ for management of infected kidney stone 
that blocking urine from draining from your kidney to your 
bladder. You were seen by our urologists and interventional 
radiologists who recommended placement of percutaneous 
nephrostomy tube. This resulted in significant improvement in 
your symptoms and normalization of your kidney function. This 
did not remove your stone and you will need to followup with 
urology to remove this stone. Urology should schedule removal of 
your percutaneous nephrostomy tube after the stone has been 
removed. There was also a concern that the stone was infected 
and so you were given IV antibiotics and then transitioned to 
oral antibiotics with improvement in your white blood cell count 
and fevers. You will need to continue to take these antibiotics 
as an outpatient. 

You will need to followup at the appointments below with your 
new PCP and ___. 

We wish you the best, 

Your ___ team
 
Followup Instructions:
___